US08859538B2
Step 1. Preparation of 3,6-dihydro-2H-pyran-4-yl trifluoromethanesulfonate (Intermediate 63A)
Dihydro-2H-pyran-4(3H)-one (0.3 g, 3.30 mmol) was dissolved in THF and 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide (1.18 g, 3.30 mmol) was added. The resulting mixture was cooled to −78° C. and lithium bis(trimethylsilyl)amide (1M in THF, 3.30 mL) was added dropwise and the reaction mixture was stirred at −78° C. for 2 hours. The mixture was then allowed to warm to −5° C. over a period of 15 hours. The reaction mixture was quenched with saturated ammonium chloride solution and extracted with ethyl acetate. The organic extracts were washed with brine, dried over Na2SO4 and concentrated. The residue was purified by regular phase chromatography eluting with 10% ethyl acetate/hexanes. The resulting crude oil 63A (200 mg) was used in the next step without purification.

reactant | Dihydro-2H-pyran-4(3H)-one | 3.30 mmol, 0.3 g | O1CCC(CC1)=O | C5H8O2
reactant | 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide | 3.30 mmol, 1.18 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
reactant | lithium bis(trimethylsilyl)amide | 1M, 3.30 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | THF | C1CCOC1 | C4H8O
product | 3,6-dihydro-2H-pyran-4-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC=1CCOCC1)(F)F | C6H7F3O4S
